US08383827B2
N-(1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)-2-methylpropyl)ethanesulfonamide
(General Grignard addition reaction procedure): a mixture of 2-Chloro-4-(5-formyl-pyridin-3-yl)-benzonitrile (0.243 g, 1 mmol), titanium(IV) isopropoxide (0.586 mL, 2.000 mmol), ethanesulfonamide (0.109 g, 1.000 mmol) in Toluene (20 mL) was heated to reflux for 4 hr. After concentration, the residue was dissolved in THF (15 mL) and cooled to −40° C. A solution of isopropenylmagnesium bromide (1.500 mL, 3.000 mmol) was added dropwise and the resulting mixture was slowly warmed up to −20° C. and stirred at this temperature for 4 hr. After quenched by NH4Cl solution, filtration, extraction with CH2Cl2, the solution was dried over Na2SO4, and concentrated, the residue was purified by flash column (MeOH—CH2Cl2, v/v, 1%-3%) and yielded a yellow solid (90 mg). Enantiomers were separated by 40% EtOH 60% heptane on a Chiralpak IA column. First peak 14 min (enantiomer 1), second peak 20 min (enantiomer 2). ESI-MS m/z: 378.1 [M+H]+, 1H NMR (400 MHz, CDCl3): δ 0.93 (d, J=6.7 Hz, 3H), 1.06 (d, J=6.7 Hz, 3H), 1.21 (t, J=8.0 Hz, 3H), 2.04-2.11 (m, 1H), 2.76-2.91 (m, 2H), 4.36 (t, J=7.4 Hz, 1H), 4.90 (d, J=7.6 Hz, 1H), 7.58 (d, J=8.2 Hz, 1H), 7.72 (s, 1H), 7.77 (s, 1H), 7.78 (d, J=8.2 Hz, 1H), 8.61 (s, 1H), 8.77 (s, 1H).

reactant | 2-Chloro-4-(5-formyl-pyridin-3-yl)-benzonitrile | 1 mmol, 0.243 g | ClC1=C(C#N)C=CC(=C1)C=1C=NC=C(C1)C=O | C13H7ClN2O
reactant | ethanesulfonamide | 1.000 mmol, 0.109 g | C(C)S(=O)(=O)N | C2H7NO2S
reactant | isopropenylmagnesium bromide | 3.000 mmol, 1.500 mL | C(=C)(C)[Mg]Br
solvent | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) isopropoxide | 2.000 mmol, 0.586 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-(1-(5-(3-chloro-4-cyanophenyl)pyridin-3-yl)-2-methylpropyl)ethanesulfonamide | 90 mg | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C(C(C)C)NS(=O)(=O)CC | C18H20ClN3O2S
